US05143936
A similar procedure to Reference Example 5 was performed using 6-cyano-3,4-epoxy-3,4 dihydro-2,2-dimethyl-2H-1-benzopyran and methylcarbazate, and as a result, trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(2-methoxycarbonylhydrazino)-2H-1-benzopyran-3-ol was obtained, m.p. 174°-175° C. (recrystallized from hexane-ethyl acetate).

reactant | 6-cyano-3,4-epoxy-3,4 dihydro-2,2-dimethyl-2H-1-benzopyran | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | methylcarbazate | COC(NN)=O | C2H6N2O2
product | trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(2-methoxycarbonylhydrazino)-2H-1-benzopyran-3-ol | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)NNC(=O)OC)C1 | C14H17N3O4
